US04435588
(A) N,N-Diethyl-N'-hydroxyethyl urea
N,N-Diethylcarbamyl chloride (8.2 g, 0.06 mole) in THF (15 ml) was added dropwise to a solution of aminoethanol (3.08 g, 0.05 mole), triethylamine (6.08 g, 0.06 mole) and THF (25 ml) at 0° C. The mixture was stirred at room temperature for 60 hrs., filtered and concentrated to 9.0 g of N,N-diethyl-N'-hydroxyethyl urea as a pale yellow oil; nmr (CDCl3) δ1.15 (t, 3H), 2.88-3.84 (m, 8H), 5.26 (s, broad, 1H), ir (neat) 3380, 1620 Cm-1.

reactant | N,N-Diethylcarbamyl chloride | 0.06 mole, 8.2 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | aminoethanol | 0.05 mole, 3.08 g | NC(C)O | C2H7NO
reactant | triethylamine | 0.06 mole, 6.08 g | C(C)N(CC)CC | C6H15N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | N,N-Diethyl-N'-hydroxyethyl urea | C(C)N(C(=O)NCCO)CC | C7H16N2O2
